US04229461
A mixture of 36.6 g of cysteamine hydrochloride, 32.6 g of triethylamine, 32.9 g of methyl pyruvate and 500 ml of ethanol was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure to afford a residue which was, after addition of water, extracted with ethyl acetate. The extract was vacuum distilled to give 36.6 g (yield 70.4%) of 2-methylthiazolidine-2-carboxylic acid methyl ester with a boiling point of 76° C./2 mmHg.

reactant | cysteamine hydrochloride | 36.6 g | Cl.NCCS
reactant | triethylamine | 32.6 g | C(C)N(CC)CC | C6H15N
reactant | methyl pyruvate | 32.9 g | C(C(=O)C)(=O)OC | C4H6O3
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-methylthiazolidine-2-carboxylic acid methyl ester | 36.6 g, yield 70.4% | COC(=O)C1(SCCN1)C | C6H11NO2S
